US06552017B1
(6bR,10aS)-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline
To ethyl (6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (4.10 g, 14.3 mmol) was added n-butanol (18.0 mL) and KOH powder (3.0 g). The reaction was heated at 119° C. in a sealed tube for 18 hr. The solvent was removed under reduced pressure. To the residue was added water (30 mL) extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, and concentrated to afford the title compound as a pale yellow oil (2.70 g, 78%). MS-ESI: 216 [MH]+

reactant | ethyl (6bR,10aS)-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 14.3 mmol, 4.10 g | C1CNC=2C=CC=C3C2N1[C@@H]1[C@H]3CN(CC1)C(=O)OCC | C16H21N3O2
reactant | KOH | 3.0 g | [OH-].[K+]
solvent | n-butanol | 18.0 mL | C(CCC)O | C4H10O
product | (6bR,10aS)-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline | 2.70 g, 78% | C1CNC=2C=CC=C3C2N1[C@@H]1[C@H]3CNCC1 | C13H17N3
